US06995268B2
4[2-[(1-(phenyl)ethyl)amino]ethyl]-1-[(4-fluorophenyl)methyl]piperidine
Compound 4-[(1-phenylethyl)aminocarbonyl]methyl-1-[(4-fluorophenyl)methyl]piperidine (0.33 g, 0.93 mmol) was reacted with 1M BH3/THF (5.0 ml) to produce a viscous oil, 0.23 g (95% yield) (procedure E). 1H NMR (CD3Cl) δ 7.34=7.21 (5H, m, Ar—H), 7.01-6.95 (2H, t, J=8.4 Hz, Ar—H), 4.09-4.07 (1H, d, J=6.0 Hz, NH), 3.77-3.71 (1H, q, J=6.3 Hz, PhCHMe), 3.42 (2H, s, p-FPhCH2), 2.82-2.78 (2H, d, J=10.8 Hz, N(CH)2), 2.55-2.37 (2H, m, NCH2), 1.91-1.83 (2H, t, J=11.4 Hz, N(CH)2), 1.59-1.53 (4H, m), 1.44-1.38 (1H, m), 1.36-1.34 (3H, d, J=6.0 Hz, CH3), 1.25-1.14 (2H, m), The free base was converted into its oxalate salt, m.p.=172-173° C. Anal. [C22H29FN2.2(COOH)2] Calculated: C, 59.99; H, 6.39; N, 5.38; Found C, 59.84; H, 6.46; N, 5.29.

reactant | 4-[(1-phenylethyl)aminocarbonyl]methyl-1-[(4-fluorophenyl)methyl]piperidine | 0.93 mmol, 0.33 g | C1(=CC=CC=C1)C(C)NC(=O)CC1CCN(CC1)CC1=CC=C(C=C1)F | C22H27FN2O
reactant | BH3/THF | 1M, 5.0 ml | B.C1CCOC1
product | 4[2-[(1-(phenyl)ethyl)amino]ethyl]-1-[(4-fluorophenyl)methyl]piperidine | 95% yield | C1(=CC=CC=C1)C(C)NCCC1CCN(CC1)CC1=CC=C(C=C1)F | C22H29FN2
